US04409234
To a solution of 5-methyl-3-phenylindazole (10.4 g) in dimethylformamide (60 ml), 50% sodium hydride (2.5 g) was added and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was then added dropwise to dimethylformamide (20 ml) containing 1,3-dibromopropane (25 g) while cooling with ice, and the resulting mixture was stirred at room temperature for 30 minutes. The mixture was extracted with xylene (120 ml), and the extract was washed with water, dried over anhydrous sodium sulfate and heated at reflux for 2 hours. The resulting precipitate was recovered by filtration, and washed with acetone to give 9.2 g of 2,3-dihydro-7-methyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium bromide. After recrystallization from isobutanol, the product had a melting point of 237° to 241° C. (decomposition).

reactant | 5-methyl-3-phenylindazole | 10.4 g | CC=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C14H12N2
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 25 g | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-7-methyl-9-phenyl-1H-pyrazolo[1,2-a]indazolium bromide | 9.2 g | [Br-].CC1=CC2=C(N3[N+](=C2C=C1)CCC3)C3=CC=CC=C3 | InChI=1S/C17H17N2.BrH/c1-13-8-9-16-15(12-13)17(14-6-3-2-4-7-14)19-11-5-10-18(16)19;/h2-4,6-9,12H,5,10-11H2,1H3;1H/q+1;/p-1
